US04921856
(a) 3-[4-[4-(3-phthalimidopropyl)-1H-imidazol-1-yl]benzoyl]-butyric acid
Prepared by a method analogous to that of Example (a) from 2.6 g (10.2 mmol) of 4-(3-phthalimidopropyl)-imidazole and 2.2 g (10.5 mmol) of 3-(4-fluorobenzoyl)-butyric acid. 3.4 g (75%) of a brownish, viscous oil is obtained which is used without further purification for the next stage.

reactant | 4-(3-phthalimidopropyl)-imidazole | 10.2 mmol, 2.6 g | C1(C=2C(C(N1CCCC=1N=CNC1)=O)=CC=CC2)=O | C14H13N3O2
reactant | 3-(4-fluorobenzoyl)-butyric acid | 10.5 mmol, 2.2 g | FC1=CC=C(C(=O)C(CC(=O)O)C)C=C1 | C11H11FO3
product | 3-[4-[4-(3-phthalimidopropyl)-1H-imidazol-1-yl]benzoyl]-butyric acid | C1(C=2C(C(N1CCCC=1N=CN(C1)C1=CC=C(C(=O)C(CC(=O)O)C)C=C1)=O)=CC=CC2)=O | C25H23N3O5
